US09079866B2
6-Amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile
To a 200 mL round-bottomed flask were added a stirbar, 6-amino-3-(4-chloro-2-fluorophenyl)pyrazine-2-carbonitrile (1.175 g, 4.73 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.583 g, 6.23 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (194 mg, 0.247 mmol), and KOAc (1.43 g, 14.6 mmol). The flask was fitted with a septum and sparged with nitrogen for 30 min before adding 48 mL of thoroughly N2 sparged THF via syringe. The mixture was then heated at 80° Celsius for 16.5 hours before cooling the mixture to rt and concentrating to dryness. The dark residue was taken up in DCM, filtered through a plug of celite, and concentrated to dryness. The residue was subjected to FCC to give the title compound. 1H NMR (600 MHz, DMSO-d6) δ 8.23 (s, 1H), 7.66-7.58 (m, 2H), 7.53-7.46 (d, J=10.2, 1H), 7.40 (s, 2H), 1.34 (s, 12H).

reactant | 6-amino-3-(4-chloro-2-fluorophenyl)pyrazine-2-carbonitrile | 4.73 mmol, 1.175 g | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)Cl)F | C11H6ClFN4
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 6.23 mmol, 1.583 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C.CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | 2C12H24B2O4
reactant | KOAc | 14.6 mmol, 1.43 g | CC(=O)[O-].[K+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 0.247 mmol, 194 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | 6-Amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
